US08877759B2
A mixture of tert-butyl N-tert-butoxycarbonyl-N-[5-[2-(1-cyano-1-methyl-ethyl)-4-pyridyl]-3-ethynyl-pyrazin-2-yl]carbamate (300 mg, 0.6472 mmol), 4-(chloromethyl)-N-hydroxybenzimidoyl chloride (158.5 mg, 0.7766 mmol) and Et3N (98.24 mg, 135.3 μL, 0.9708 mmol) were stirred at ambient temperature for 60 hours. A further aliquot of 4-(chloromethyl)-N-hydroxybenzimidoyl chloride (50.0 mg, 0.2450 mmol) and Et3N (36.30 mg, 50.0 μL, 0.3587 mmol) were added and the reaction mixture stirred at ambient temperature for a further 24 hours. The reaction mixture was partitioned between DCM and saturated aqueous NaHCO3 and the layers separated. The aquoeus layer was extracted with DCM (×3) and the combined organic extracts dried (MgSO4), filtered and concentrated in vacuo. The residue was dissolved in DCM (10 mL) and TFA (2 mL) was added. The reaction mixture was stirred at ambient temperature for 1 hour then concentrated in vacuo. The residue was partitioned between DCM and saturated aqueous NaHCO3 and the layers separated. The aquoeus layer was extracted with DCM (×3) and the combined organic extracts dried (MgSO4), filtered and concentrated in vacuo yielding 2-(4-(5-amino-6-(3-(4-(chloromethyl)phenyl)isoxazol-5-yl)pyrazin-2-yl)pyridin-2-yl)-2-methylpropanenitrile as a yellow solid that was used without further purification

reactant | tert-butyl N-tert-butoxycarbonyl-N-[5-[2-(1-cyano-1-methyl-ethyl)-4-pyridyl]-3-ethynyl-pyrazin-2-yl]carbamate | 0.6472 mmol, 300 mg | C(C)(C)(C)OC(=O)N(C(OC(C)(C)C)=O)C1=NC=C(N=C1C#C)C1=CC(=NC=C1)C(C)(C)C#N | C25H29N5O4
reactant | 4-(chloromethyl)-N-hydroxybenzimidoyl chloride | 0.7766 mmol, 158.5 mg | ClCC1=CC=C(C(=NO)Cl)C=C1 | C8H7Cl2NO
reactant | Et3N | 0.9708 mmol, 135.3 μL, 98.24 mg | CCN(CC)CC | C6H15N
reactant | 4-(chloromethyl)-N-hydroxybenzimidoyl chloride | 0.2450 mmol, 50.0 mg | ClCC1=CC=C(C(=NO)Cl)C=C1 | C8H7Cl2NO
reactant | Et3N | 0.3587 mmol, 50.0 μL, 36.30 mg | CCN(CC)CC | C6H15N
product | 2-(4-(5-amino-6-(3-(4-(chloromethyl)phenyl)isoxazol-5-yl)pyrazin-2-yl)pyridin-2-yl)-2-methylpropanenitrile | NC=1N=CC(=NC1C1=CC(=NO1)C1=CC=C(C=C1)CCl)C1=CC(=NC=C1)C(C#N)(C)C | C23H19ClN6O
